US08609690B2
(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(3-phenyl-8-aza-bicyclo[3.2.1]oct-8-yl)-methanone, 1:1 mixture of endo and exo isomer
PtO2 (40 mg) is added to a solution of (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3-phenyl-8-aza-bicyclo[3.2.1]oct-2-en-8-yl)-methanone (0.40 g) in methanol (5 mL). The resulting mixture is shaken in hydrogen atmosphere (1 bar) at room temperature for 6 h. Then, the mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0→9:1) to give the title product as a ca. 1:1 mixture of endo and exo isomer.

reactant | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3-phenyl-8-aza-bicyclo[3.2.1]oct-2-en-8-yl)-methanone | 0.40 g | O1CCOC2=C1C=CC(=C2)C(=O)N2C1C=C(CC2CC1)C1=CC=CC=C1 | C22H21NO3
solvent | methanol | 5 mL | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | PtO2 | 40 mg | O=[Pt]=O
product | (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(3-phenyl-8-aza-bicyclo[3.2.1]oct-8-yl)-methanone | O1CCOC2=C1C=CC(=C2)C(=O)N2C1CC(CC2CC1)C1=CC=CC=C1 | C22H23NO3
